US07442696B2
This compound was prepared using General Method 2 (EXAMPLE 1) from (±)-1-(2-amino-6-chlorophenyl)propan-1-ol (0.18 g, 0.94 mmol) to afford 0.14 g (73%) of (±)-5-chloro-4-ethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one after flash chromatography (4:1 hexanes:ethyl acetate).

reactant | (±)-1-(2-amino-6-chlorophenyl)propan-1-ol | 0.94 mmol, 0.18 g | NC1=C(C(=CC=C1)Cl)C(CC)O | C9H12ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-5-chloro-4-ethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.14 g, 73% | ClC1=CC=CC2=C1C(OC(N2)=O)CC | C10H10ClNO2
